US09382257B2
0.25 g 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole was dissolved in 5 mL of DMF and 0.63 g cesium carbonate was added. To this suspension was added 0.17 mL of benzyl bromide and the reaction was stirred overnight at room temperature. The reaction was allowed to settle and the DMF was decanted into a flask. The remaining residue was washed and decanted twice with ethyl acetate and these washes were added to the flask with the DMF. Water was added to the ethyl acetate and DMF and the organic layer removed. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over MgSO4 and concentrated to give 0.28 g of 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole which was used without further purification.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.25 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | cesium carbonate | 0.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 0.17 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.28 g | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
